US07157487B2
To methyl (2-(1-methyl-2-pyrrolyl)-6-benzoxazolyl)acetate (228 mg, 0.84 mmol) were added THF (8.5 ml) and 0.25N NaOH (5.10 ml, 1.27 mmol). The resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was poured in 1N HCl (10 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (2-(1-methyl-2-pyrrolyl)-6-benzoxazolyl)acetic acid (144 mg, 67%) as a pale yellow solid.

reactant | methyl (2-(1-methyl-2-pyrrolyl)-6-benzoxazolyl)acetate | 0.84 mmol, 228 mg | CN1C(=CC=C1)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C15H14N2O3
reactant | THF | 8.5 ml | C1CCOC1 | C4H8O
reactant | NaOH | 1.27 mmol, 0.25N, 5.10 ml | [OH-].[Na+]
solvent | HCl | 1N, 10 ml | Cl | ClH
product | (2-(1-methyl-2-pyrrolyl)-6-benzoxazolyl)acetic acid | 144 mg, 67% | CN1C(=CC=C1)C=1OC2=C(N1)C=CC(=C2)CC(=O)O | C14H12N2O3
